*Automatic generated instance fron ../../tech/scripts/genxdut tbdigctrl
*.include ../../rtl/tbdigctrl.v
adut_tbdigctrl [clk
+ rst
+ cmp
+ ]
+ [cmp_sync1
+ cmp_sync2
+ cmp_rising
+ timeout_counter.7
+ timeout_counter.6
+ timeout_counter.5
+ timeout_counter.4
+ timeout_counter.3
+ timeout_counter.2
+ timeout_counter.1
+ timeout_counter.0
+ coarse_step_counter.3
+ coarse_step_counter.2
+ coarse_step_counter.1
+ coarse_step_counter.0
+ coarse_step1.7
+ coarse_step1.6
+ coarse_step1.5
+ coarse_step1.4
+ coarse_step1.3
+ coarse_step1.2
+ coarse_step1.1
+ coarse_step1.0
+ coarse_step2.6
+ coarse_step2.5
+ coarse_step2.4
+ coarse_step2.3
+ coarse_step2.2
+ coarse_step2.1
+ coarse_step2.0
+ finetuning_duty_cycle.7
+ finetuning_duty_cycle.6
+ finetuning_duty_cycle.5
+ finetuning_duty_cycle.4
+ finetuning_duty_cycle.3
+ finetuning_duty_cycle.2
+ finetuning_duty_cycle.1
+ finetuning_duty_cycle.0
+ finetuning_periode.7
+ finetuning_periode.6
+ finetuning_periode.5
+ finetuning_periode.4
+ finetuning_periode.3
+ finetuning_periode.2
+ finetuning_periode.1
+ finetuning_periode.0
+ finetuning_counter.7
+ finetuning_counter.6
+ finetuning_counter.5
+ finetuning_counter.4
+ finetuning_counter.3
+ finetuning_counter.2
+ finetuning_counter.1
+ finetuning_counter.0
+ finetuning_signal
+ ] null dut_tbdigctrl
.model dut_tbdigctrl d_cosim simulation="../tbdigctrl.so" delay=10p

* Inputs
Rsvi_tbdigctrl0 clk 0 1G
Rsvi_tbdigctrl1 rst 0 1G
Rsvi_tbdigctrl2 cmp 0 1G

* Outputs
Rsvi_tbdigctrl3 cmp_sync1 0 1G
Rsvi_tbdigctrl4 cmp_sync2 0 1G
Rsvi_tbdigctrl5 cmp_rising 0 1G
Rsvi_tbdigctrl6 timeout_counter.7 0 1G
Rsvi_tbdigctrl7 timeout_counter.6 0 1G
Rsvi_tbdigctrl8 timeout_counter.5 0 1G
Rsvi_tbdigctrl9 timeout_counter.4 0 1G
Rsvi_tbdigctrl10 timeout_counter.3 0 1G
Rsvi_tbdigctrl11 timeout_counter.2 0 1G
Rsvi_tbdigctrl12 timeout_counter.1 0 1G
Rsvi_tbdigctrl13 timeout_counter.0 0 1G
Rsvi_tbdigctrl14 coarse_step_counter.3 0 1G
Rsvi_tbdigctrl15 coarse_step_counter.2 0 1G
Rsvi_tbdigctrl16 coarse_step_counter.1 0 1G
Rsvi_tbdigctrl17 coarse_step_counter.0 0 1G
Rsvi_tbdigctrl18 coarse_step1.7 0 1G
Rsvi_tbdigctrl19 coarse_step1.6 0 1G
Rsvi_tbdigctrl20 coarse_step1.5 0 1G
Rsvi_tbdigctrl21 coarse_step1.4 0 1G
Rsvi_tbdigctrl22 coarse_step1.3 0 1G
Rsvi_tbdigctrl23 coarse_step1.2 0 1G
Rsvi_tbdigctrl24 coarse_step1.1 0 1G
Rsvi_tbdigctrl25 coarse_step1.0 0 1G
Rsvi_tbdigctrl26 coarse_step2.6 0 1G
Rsvi_tbdigctrl27 coarse_step2.5 0 1G
Rsvi_tbdigctrl28 coarse_step2.4 0 1G
Rsvi_tbdigctrl29 coarse_step2.3 0 1G
Rsvi_tbdigctrl30 coarse_step2.2 0 1G
Rsvi_tbdigctrl31 coarse_step2.1 0 1G
Rsvi_tbdigctrl32 coarse_step2.0 0 1G
Rsvi_tbdigctrl33 finetuning_duty_cycle.7 0 1G
Rsvi_tbdigctrl34 finetuning_duty_cycle.6 0 1G
Rsvi_tbdigctrl35 finetuning_duty_cycle.5 0 1G
Rsvi_tbdigctrl36 finetuning_duty_cycle.4 0 1G
Rsvi_tbdigctrl37 finetuning_duty_cycle.3 0 1G
Rsvi_tbdigctrl38 finetuning_duty_cycle.2 0 1G
Rsvi_tbdigctrl39 finetuning_duty_cycle.1 0 1G
Rsvi_tbdigctrl40 finetuning_duty_cycle.0 0 1G
Rsvi_tbdigctrl41 finetuning_periode.7 0 1G
Rsvi_tbdigctrl42 finetuning_periode.6 0 1G
Rsvi_tbdigctrl43 finetuning_periode.5 0 1G
Rsvi_tbdigctrl44 finetuning_periode.4 0 1G
Rsvi_tbdigctrl45 finetuning_periode.3 0 1G
Rsvi_tbdigctrl46 finetuning_periode.2 0 1G
Rsvi_tbdigctrl47 finetuning_periode.1 0 1G
Rsvi_tbdigctrl48 finetuning_periode.0 0 1G
Rsvi_tbdigctrl49 finetuning_counter.7 0 1G
Rsvi_tbdigctrl50 finetuning_counter.6 0 1G
Rsvi_tbdigctrl51 finetuning_counter.5 0 1G
Rsvi_tbdigctrl52 finetuning_counter.4 0 1G
Rsvi_tbdigctrl53 finetuning_counter.3 0 1G
Rsvi_tbdigctrl54 finetuning_counter.2 0 1G
Rsvi_tbdigctrl55 finetuning_counter.1 0 1G
Rsvi_tbdigctrl56 finetuning_counter.0 0 1G
Rsvi_tbdigctrl57 finetuning_signal 0 1G

.save v(cmp_sync1)

.save v(cmp_sync2)

.save v(cmp_rising)

E_STATE_tbdigctrltimeout_counter dec_timeout_counter 0 value={( 0 
+ + 128*v(timeout_counter.7)/AVDD
+ + 64*v(timeout_counter.6)/AVDD
+ + 32*v(timeout_counter.5)/AVDD
+ + 16*v(timeout_counter.4)/AVDD
+ + 8*v(timeout_counter.3)/AVDD
+ + 4*v(timeout_counter.2)/AVDD
+ + 2*v(timeout_counter.1)/AVDD
+ + 1*v(timeout_counter.0)/AVDD
+)/1000}
.save v(dec_timeout_counter)

E_STATE_tbdigctrlcoarse_step_counter dec_coarse_step_counter 0 value={( 0 
+ + 8*v(coarse_step_counter.3)/AVDD
+ + 4*v(coarse_step_counter.2)/AVDD
+ + 2*v(coarse_step_counter.1)/AVDD
+ + 1*v(coarse_step_counter.0)/AVDD
+)/1000}
.save v(dec_coarse_step_counter)

E_STATE_tbdigctrlcoarse_step1 dec_coarse_step1 0 value={( 0 
+ + 128*v(coarse_step1.7)/AVDD
+ + 64*v(coarse_step1.6)/AVDD
+ + 32*v(coarse_step1.5)/AVDD
+ + 16*v(coarse_step1.4)/AVDD
+ + 8*v(coarse_step1.3)/AVDD
+ + 4*v(coarse_step1.2)/AVDD
+ + 2*v(coarse_step1.1)/AVDD
+ + 1*v(coarse_step1.0)/AVDD
+)/1000}
.save v(dec_coarse_step1)

E_STATE_tbdigctrlcoarse_step2 dec_coarse_step2 0 value={( 0 
+ + 64*v(coarse_step2.6)/AVDD
+ + 32*v(coarse_step2.5)/AVDD
+ + 16*v(coarse_step2.4)/AVDD
+ + 8*v(coarse_step2.3)/AVDD
+ + 4*v(coarse_step2.2)/AVDD
+ + 2*v(coarse_step2.1)/AVDD
+ + 1*v(coarse_step2.0)/AVDD
+)/1000}
.save v(dec_coarse_step2)

E_STATE_tbdigctrlfinetuning_duty_cycle dec_finetuning_duty_cycle 0 value={( 0 
+ + 128*v(finetuning_duty_cycle.7)/AVDD
+ + 64*v(finetuning_duty_cycle.6)/AVDD
+ + 32*v(finetuning_duty_cycle.5)/AVDD
+ + 16*v(finetuning_duty_cycle.4)/AVDD
+ + 8*v(finetuning_duty_cycle.3)/AVDD
+ + 4*v(finetuning_duty_cycle.2)/AVDD
+ + 2*v(finetuning_duty_cycle.1)/AVDD
+ + 1*v(finetuning_duty_cycle.0)/AVDD
+)/1000}
.save v(dec_finetuning_duty_cycle)

E_STATE_tbdigctrlfinetuning_periode dec_finetuning_periode 0 value={( 0 
+ + 128*v(finetuning_periode.7)/AVDD
+ + 64*v(finetuning_periode.6)/AVDD
+ + 32*v(finetuning_periode.5)/AVDD
+ + 16*v(finetuning_periode.4)/AVDD
+ + 8*v(finetuning_periode.3)/AVDD
+ + 4*v(finetuning_periode.2)/AVDD
+ + 2*v(finetuning_periode.1)/AVDD
+ + 1*v(finetuning_periode.0)/AVDD
+)/1000}
.save v(dec_finetuning_periode)

E_STATE_tbdigctrlfinetuning_counter dec_finetuning_counter 0 value={( 0 
+ + 128*v(finetuning_counter.7)/AVDD
+ + 64*v(finetuning_counter.6)/AVDD
+ + 32*v(finetuning_counter.5)/AVDD
+ + 16*v(finetuning_counter.4)/AVDD
+ + 8*v(finetuning_counter.3)/AVDD
+ + 4*v(finetuning_counter.2)/AVDD
+ + 2*v(finetuning_counter.1)/AVDD
+ + 1*v(finetuning_counter.0)/AVDD
+)/1000}
.save v(dec_finetuning_counter)

.save v(finetuning_signal)

